US06071707
A mixture of N-Boc-para-(2'-t butoxycarbonylphenyl)phenylalanine-benzyl ester and 10% Palladium on charcoal (0.030 g) in ethanol 20 mL was hydrogenated at 35 psi for 23.5 hours. The reaction mixture was filtered through celite and evaporated to dryness to give the N-Boc-para-(2'-t butoxycarbonylphenyl)phenylalanine (0.175 g).

reactant | N-Boc-para-(2'-t butoxycarbonylphenyl)phenylalanine-benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C)=O | C32H37NO6
catalyst | Palladium on charcoal | 0.030 g | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-Boc-para-(2'-t butoxycarbonylphenyl)phenylalanine | 0.175 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C)C(=O)O | C25H31NO6
